US06441017B1
Step E: (S)-3-(tert-Butoxycarbonylamino)-1-[3′-(tert-butyldimethylsilyloxy)biphen-2-yl]-2-oxopyrrolidine
Following the procedures described in Example 24, Steps F-H, but using 2-(3-tert-butyldimethylsilyloxyphenyl)aniline rather than 1-amino-4-bromo-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride, and (S)-N-(tert-butoxycarbonyl) methionine rather than (R)-N-(tert-butoxycarbonyl)methionine, the above-titled compound was obtained.

reactant | 2-(3-tert-butyldimethylsilyloxyphenyl)aniline | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=C(N)C=CC=C1 | C18H25NOSi
reactant | 1-amino-4-bromo-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride | Cl.NC1=CC=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)Br
reactant | (S)-N-(tert-butoxycarbonyl) methionine | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | (R)-N-(tert-butoxycarbonyl)methionine | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
product | (S)-3-(tert-Butoxycarbonylamino)-1-[3′-(tert-butyldimethylsilyloxy)biphen-2-yl]-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)C1=CC=CC=C1C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C27H38N2O4Si
